US09422244B2
0.8 g (1 mol equiv.) 8-Oxa-2,3-diaza-spiro[4.5]dec-2-ene (synthesized as described in WO 2008/034863) and 0.54 g (1.3 mol equiv.) methyl isothiocyanate were added to 10 mL ethanol, and the reaction mixture was refluxed for 5 hours. Silica gel was added and volatiles were removed under reduced pressure. Purification by flash chromatography on silica gel (Et2O) afforded 0.52 g (35%) 8-oxa-2,3-diaza-spiro[4.5]dec-3-ene-2-carbothioic acid methylamide. 1H NMR (400 MHz, CDCl3) δ 1.52-1.59 (m, 3H), 1.82-1.90 (m, 2H), 3.17 (d, J=5.0, 3H), 3.56-3.64 (m, 2H), 3.86-3.92 (m, 2H), 4.11 (s, 2H), 6.80 (s, 1H), 7.21 (br.s., 1H).

reactant | 8-Oxa-2,3-diaza-spiro[4.5]dec-2-ene | 1 mol, 0.8 g | C1N=NCC12CCOCC2 | C7H12N2O
reactant | methyl isothiocyanate | 1.3 mol, 0.54 g | CN=C=S | C2H3NS
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 8-oxa-2,3-diaza-spiro[4.5]dec-3-ene-2-carbothioic acid methylamide | 0.52 g, 35% | CNC(=S)N1CC2(C=N1)CCOCC2 | C9H15N3OS
